US05116407
A 30/20/50 copolymer of acrylic acid/methyl methacrylate/butyl acrylate was prepared in xylene/butanol solution as described in Example 7. Rosin Amine D was added to the copolymer in an amount equivalent to the acid groups in the polymer. The resulting solution was milled with pigments, plasticiser and structuring agents to form a paint containing, by volume, 30% copolymer amine salt, 18% cuprous oxide, 1.3% zinc oxide, 4% tricresyl phosphate and 2% structuring agents.

reactant | tricresyl phosphate | P(=O)(OC1=CC=C(C=C1)C)(OC1=CC=C(C=C1)C)OC1=CC=C(C=C1)C | C21H21O4P
reactant | xylene butanol | C=1(C(=CC=CC1)C)C.C(CCC)O
catalyst | zinc oxide | [O-2].[Zn+2]
product | acrylic acid methyl methacrylate/butyl acrylate | C(C=C)(=O)O.C(C(=C)C)(=O)OC.C(C=C)(=O)OCCCC | InChI=1S/C7H12O2.C5H8O2.C3H4O2/c1-3-5-6-9-7(8)4-2;1-4(2)5(6)7-3;1-2-3(4)5/h4H,2-3,5-6H2,1H3;1H2,2-3H3;2H,1H2,(H,4,5)
